US04115445
A 1/2-liter autoclave was charged with nitrobenzene (30.0 g.), dimethylammonium sulphide (40 g.) benzene (60 g.) and carbon monoxide to a pressure of 50 atmospheres. The temperature of the autoclave was raised to 110° C and its contents were maintained at this temperature with stirring for 21/2 hours. The pressure was renewed to 50 atmospheres at intervals as required by passing in more carbon monoxide. The contents of the autoclave were then allowed to cool below 70° C before being removed and distilled to separate the volatiles, which included unreacted nitrobenzene. The residue, weighing 16 g., was recrystallised from a mixture of benzene and 60-80 petroleum ether to give 1,1-dimethyl-3-phenylurea (12.3 g.).

reactant | nitrobenzene | 30.0 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | dimethylammonium sulphide | 40 g | C[NH2+](C)=S
reactant | benzene | 60 g | C1=CC=CC=C1 | C6H6
reactant | carbon monoxide | [C]=O | CO
product | 1,1-dimethyl-3-phenylurea | 12.3 g | CN(C(=O)NC1=CC=CC=C1)C | C9H12N2O
